* C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\252330 lab\bjt-amp-lab\1-1.asc
V1 Vin 0 SINE(0 10m 1k)
C1 N003 Vin 10µ
R1 N003 0 12k
R2 N001 N003 68k
R3 N001 N002 3.9k
Q1 N002 N003 N004 0 q2sc458
R4 N004 0 1k
C2 N004 0 100µ
RL Vout 0 100Meg
C3 Vout N002 10µ
VCC N001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
